US05707547
A reactor was charged with 1.0 g (2.67 mmol) of the 2-{4-(1-decenyl)-phenyl}-5-hydroxypyrimidine obtained above, 2 ml of pyridine, 0.01 g of 4-pyrrolidinopyridine and 20 ml of dichloromethane. While cooling the mixture to a temperature not higher than 0° C. in an atmosphere of nitrogen gas, 1.13 g (4 mmol) of trifluoromethanesulfonic acid anhydride was dropwise added and stirred for two hours. After extraction with water, the organic layer was washed successively with 1N-hydrochloric acid and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, purification of the residue by silica gel column chromatography gave 1.06 g (yield 90%) of 2-{4-(1-decenyl)-phenyl}-5-trifluoromethylsulfonyloxypyrimidine.

reactant | 2-{4-(1-decenyl)-phenyl}-5-hydroxypyrimidine | 2.67 mmol, 1.0 g | C(=CCCCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)O | C20H26N2O
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-pyrrolidinopyridine | 0.01 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
